US08975443B2
2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinan-4-ol
A flask was charged with 1.5 g of 2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinan-4-one (3.33 mmol, 1.0 equiv). The ketone was dissolved in 16 mL of nitrogen-sparged tetrahydrofuran and cooled in an ice water bath. A solution of lithium aluminum hydride (3.33 mL, 6.66 mmol, 2 equiv, 2 M in THF) was added dropwise over 3 minutes to the solution. The solution was warmed to room temperature and stirred for 7 hours. The reaction mixture was quenched by the slow addition of aqueous hydrochloric acid (50 mL, 1 M). The solution was stirred vigorously until homogeneous. The phases were partitioned and the aqueous layer was collected. The aqueous layer was washed with ethyl acetate (4×20 mL), then the combined organic layers were washed with brine (50 mL), dried over sodium sulfate and concentrated. The resulting white solid was purified by column chromatography using an Isco CombiFlash Companion® with a Teledyne Isco RediSepRf column (40-g, flow rate: 40 mL/minute, gradient: 1 column volumes heptane, ramp up to 60:40 heptane:ethyl acetate over 7 column volumes, hold at 60:40 for 2 column volumes). The title compound was isolated as a white solid (1.32 g, 95 area % by HPLC at 254 nm, 88% yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.88-7.81 (m, 1H), 7.40-7.28 (m, 2H), 7.23-7.17 (m, 1H), 7.00 (s, 2H), 4.04 (tt, J=10.2, 3.5 Hz, 1H), 2.94 (hept, J=6.9 Hz, 1H), 2.50 (hept, J=6.7 Hz, 2H), 1.92-1.74 (m, 2H), 1.71-1.57 (m, 2H), 1.38 (d, J=3.8 Hz, 6H), 1.32 (d, J=6.9 Hz, 6H), 1.20 (d, J=6.8 Hz, 6H), 1.04 (s, 3H), 0.99 (s, 3H), 0.95 (d, J=6.7 Hz, 6H) ppm. 13C NMR (100 MHz, CDCl3) δ=149.4 (d, J=36 Hz), 147.1, 145.5, 136.8 (d, J=6 Hz), 135.7 (d, J=3 Hz), 133.5 (d, J=32 Hz), 132.7 (d, J=7 Hz), 127.8, 125.0, 120.0, 66.4, 51.1 (d, J=12 Hz), 34.2, 33.7, 33.4 (d, J=4 Hz), 33.2, 30.8, 27.8 (d, J=4 Hz), 26.5, 24.3, 23.1. 31P NMR (CDCl3, 202 MHz), δ ppm 0.0.

reactant | 2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinan-4-one | 3.33 mmol, 1.5 g, 1.0 equiv | CC1(P(C(CC(C1)=O)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C30H43OP
reactant | lithium aluminum hydride | 6.66 mmol, 2 M, 3.33 mL, 2 equiv | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinan-4-ol | 88% yield | CC1(P(C(CC(C1)O)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C30H45OP
